US04053588
a. L-pyroglutamic acid pentachlorophenyl ester
129 g (1mol) of L-pyroglutamic acid were finely ground in a mortar and suspended in 2 l of tetrahydrofurane. 319 g (1.2 mol) of pentachlorophenol and, at 0° C., 220 g (1.06 mol) of dicyclohexylcarbodiimide dissolved in 300 ml of tetrahydrofurane were added. The mixture was stirred for 1 hour at 0° C. and for 5 hours at room temperature. The dicyclohexyl urea was filtered off, and extracted with a small amount of warm tetrahydrofurane. The solvent was distilled off in vacuum. The residue was boiled with isopropanol and filtered off after cooling. After drying under vacuum over P2O5 and KOH, 175 g product were obtained which melted at 198° C., [α]D20 = + 18.6° (c=1, dimethyl formamide)

reactant | L-pyroglutamic acid | 1mol, 129 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | pentachlorophenol | 1.2 mol, 319 g | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | dicyclohexylcarbodiimide | 1.06 mol, 220 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofurane | 2 l | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 300 ml | O1CCCC1 | C4H8O
product | L-pyroglutamic acid pentachlorophenyl ester | 175 g | ClC1=C(C(=C(C(=C1OC([C@H]1NC(CC1)=O)=O)Cl)Cl)Cl)Cl | C11H6Cl5NO3
